US05672616
Methyl pyrrol-2-ylglyoxylate O-methyloxime (Table 3, No. 165)
97.5 g (1.2 eq) of methoxyamine hydrochloride are added to a solution of 148.8 g (0.97 mol) of methyl pyrrol-2-ylglyoxylate (prepared by a method similar to that described by B. Lindstrom et al., Acta Chem. Scand. 27 (1973), 7) in 1 l of methanol, and the solution is refluxed for 2.5 hours. After evaporation in a rotary evaporator, the residue is taken up in ethyl acetate and the solution is washed with water, dried and evaporated down. 81 g (46%) of the pyrrole remained in the form of an oil.

reactant | methoxyamine hydrochloride | 97.5 g, 1.2 eq | Cl.CON
reactant | methyl pyrrol-2-ylglyoxylate | 0.97 mol, 148.8 g | N1C(=CC=C1)C(C(=O)OC)=O | C7H7NO3
solvent | methanol | 1 l | CO | CH4O
product | Methyl pyrrol-2-ylglyoxylate O-methyloxime | CON=C(C(=O)OC)C=1NC=CC1 | C8H10N2O3
